US07951822B2
f) Preparation of 1,1,1,3,3,3-hexafluoro-2-[2-(hydroxymethyl)-4-(methoxymethoxy)-3-propylphenyl]propan-2-ol
To a solution of 1,1,1,3,3,3-hexafluoro-2-[4-(methoxymethoxy)-3-propyl-2-[(tetrahydro-2H-pyran-2-yloxy)methyl]phenyl]propan-2-ol (883.2 mg, 1.92 mmol) in tetrahydrofuran (10 mL), water (5 mL), and acetic acid (20 mL) were added, and the mixture was stirred at 50° C. for 3 hours. The reaction solution was neutralized with an aqueous solution of sodium hydrogen carbonate and then extracted with ethyl acetate. The organic layer was washed with saturated saline, dried using anhydrous sodium sulfate, and concentrated under vacuum. The obtained residue was purified by silica-gel column chromatography (hexane/ethyl acetate), and the title compound (678 mg, 92%) was obtained as colorless oil.

reactant | 1,1,1,3,3,3-hexafluoro-2-[4-(methoxymethoxy)-3-propyl-2-[(tetrahydro-2H-pyran-2-yloxy)methyl]phenyl]propan-2-ol | 1.92 mmol, 883.2 mg | FC(C(C(F)(F)F)(O)C1=C(C(=C(C=C1)OCOC)CCC)COC1OCCCC1)(F)F | C20H26F6O5
reactant | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 1,1,1,3,3,3-hexafluoro-2-[2-(hydroxymethyl)-4-(methoxymethoxy)-3-propylphenyl]propan-2-ol | 678 mg, 92% | FC(C(C(F)(F)F)(O)C1=C(C(=C(C=C1)OCOC)CCC)CO)(F)F | C15H18F6O4
